US08703742B2
3-(3-Benzyloxy-propoxy)-6-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde
A solution of trifluoro-methanesulfonic acid 6-(3-benzyloxy-propoxy)-3-fluoro-2-formyl-phenyl ester (1.092 g, 2.50 mmol) in anhydrous 1,4-dioxane (10 mL) was added bis(pinacolato)diborane (953 mg, 3.75 mmol) and KOAc (736 mg, 7.50 mmol) at rt, then degassed with N2 for 20 min. PdCl2(dppf) (46 mg, 8 mol %) was added and the resulting solution was stirred at 100° C. until the reaction was complete. The solution was cooled to rt, filtered through Celite® or silica gel and concentrated in vacuo. The residue was taken up in EtOAc. The organic layer was then washed with H2O then brine, dried (Na2SO4), filtered, and concentrated in vacuo. The product was purified by flash chromatography (20% EtOAc/hexane) to give 0.5 g of the title compound along with detriflated by product ratio ˜1:1 by H NMR spectrum. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 10.33 (s, 1H), 7.41-7.23 (m, 6H), 7.19 (d, J=9.4 Hz, 1H), 4.57-4.42 (m, 2H), 4.06 (t, J=6.3 Hz, 2H), 3.69-3.64 (m, 2H), 2.20-2.00 (m, 2H), 1.44 (s, 12H); 19F NMR (376 MHz, CHLOROFORM-d) δ ppm −73.72.

reactant | trifluoro-methanesulfonic acid 6-(3-benzyloxy-propoxy)-3-fluoro-2-formyl-phenyl ester | 2.50 mmol, 1.092 g | C(C1=CC=CC=C1)OCCCOC1=CC=C(C(=C1OS(=O)(=O)C(F)(F)F)C=O)F | C18H16F4O6S
reactant | bis(pinacolato)diborane | 3.75 mmol, 953 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 7.50 mmol, 736 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(3-Benzyloxy-propoxy)-6-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 0.5 g | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C(=CC1)F)B1OC(C(O1)(C)C)(C)C | C23H28BFO5
